US06300501B1
Step 1: 2-[(4-Pyridyl)-methyloxy]-benzaldehyde
A solution of salicylaldehyde (5 g, 40.9 mmol) in DMSO (75 mL) was treated with crushed potassium hydroxide (5.4 g, 81.8 mmol) and allowed to stir at room temperature for 1 hour. This was then treated with 4-picolyl chloride hydrochloride (6.8 g, 40.9 mmol) and the dark mixture allowed to stir overnight. The mixture was poured into water and extracted twice with ethyl acetate. The combined ethyl acetate extracts were washed with 5% NaOH, three times with water then with brine. Drying over MgSO4 and removal of the solvent under reduced pressure gave the crude product. This was taken up in ethyl acetate, treated with charcoal, filtered, and the solvent removed under reduced pressure to give 5.42 g (62.1%) of the product as an oil; MS-CI 214 (M+1).

reactant | salicylaldehyde | 40.9 mmol, 5 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium hydroxide | 81.8 mmol, 5.4 g | [OH-].[K+]
reactant | 4-picolyl chloride hydrochloride | 40.9 mmol, 6.8 g | Cl.N1=CC=C(C=C1)CCl
reactant | charcoal | C | CH4
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[(4-Pyridyl)-methyloxy]-benzaldehyde | 5.42 g, 62.1% | N1=CC=C(C=C1)COC1=C(C=O)C=CC=C1 | C13H11NO2
